US04604390
2-[2-(Diethylamino)ethyl]-5-[[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]amino]-2H-[1]benzothiopyrano[4,3,2-cd]indazol-9-ol, monohydrobromide
A mixture of 4.61 g of 5-amino-2-[2-(diethylamino)-ethyl]-2H-benzothiopyrano[4,3,2-cd]indazol-9-ol and 4.3 g of bromoethylphthalimide is heated at 110° C. for 16 hours, then cooled to room tempaerature. The mixture is combined with 300 ml of chloroform and 10 ml of N,N-diisopropylethylamine and heated under reflux for 2 hours, then washed with three 350-ml portions of water. The solution is evaporated to afford an oily solid which is triturated with 2-propanol. The resulting solid is collected and dried to give the title compound, mp 163°-166° C.

reactant | 5-amino-2-[2-(diethylamino)-ethyl]-2H-benzothiopyrano[4,3,2-cd]indazol-9-ol | 4.61 g | NC1=C2C=3C(=NN(C3C=C1)CCN(CC)CC)C1=C(S2)C=CC(=C1)O | C19H22N4OS
reactant | bromoethylphthalimide | 4.3 g | BrCCC1=C2C(C(=O)NC2=O)=CC=C1 | C10H8BrNO2
reactant | N,N-diisopropylethylamine | 10 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-[2-(Diethylamino)ethyl]-5-[[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]amino]-2H-[1]benzothiopyrano[4,3,2-cd]indazol-9-ol, monohydrobromide | Br.C(C)N(CCN1N=C2C=3C(=C(C=CC13)NCCN1C(C3=CC=CC=C3C1=O)=O)SC1=C2C=C(C=C1)O)CC | InChI=1S/C29H29N5O3S.BrH/c1-3-32(4-2)15-16-34-23-11-10-22(27-25(23)26(31-34)21-17-18(35)9-12-24(21)38-27)30-13-14-33-28(36)19-7-5-6-8-20(19)29(33)37;/h5-12,17,30,35H,3-4,13-16H2,1-2H3;1H
